US07399759B2
Methyl [6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methanesulfonate
2-(6-Hydroxymethyl-2-pyridyl)-4H-1,3-benzothiazine-4-one (0.54 g, 2.0 mmol) and triethylamine (0.31 ml, 2.2 mmol) were dissolved in tetrahydrofuran (30 ml). Methanesulfonyl chloride (0.16 ml, 2.1 mmol) was added to the mixture while the mixture was stirred under ice cooling condition. The reaction mixture was stirred at room temperature for 3 hrs, diluted with water and extracted with chloroform. The extract was washed with water and dried. The solvent was evaporated under reduced pressure. The obtained crystals were recrystallized from ethanol to give the titled compound (0.64 g, 92%).

reactant | 2-(6-Hydroxymethyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 2.0 mmol, 0.54 g | OCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2O2S
reactant | triethylamine | 2.2 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.1 mmol, 0.16 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Methyl [6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methanesulfonate | 0.64 g, 92% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CS(=O)(=O)OC | C15H12N2O4S2
